US08703742B2
tert-Butyl (7-ethoxy-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-3-yl)methyl-carbamate
To the mixture of 3-(aminomethyl)-7-ethoxybenzo[c][1,2]oxaborol-1(3H)-ol hydrochloride salt (300 mg, 1.23 mmol) and triethylamine (622 mg, 6.16 mmol) in dichloromethane (35 mL) at 0° C. was added di-tert-butyl dicarbonate (402.8 mg, 1.85 mmol) and the mixture was stirred for 2 h at room temperature. After the reaction was quenched with sat. NaHCO3 (45 mL) and the resulting mixture was extracted with EtOAc (3×30 mL), the combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by flash-column chromatography to give the product (320 mg, yield 84.6%).

reactant | 3-(aminomethyl)-7-ethoxybenzo[c][1,2]oxaborol-1(3H)-ol hydrochloride salt | 1.23 mmol, 300 mg | Cl.NCC1C2=C(B(O1)O)C(=CC=C2)OCC
reactant | triethylamine | 6.16 mmol, 622 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.85 mmol, 402.8 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | tert-Butyl (7-ethoxy-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-3-yl)methyl-carbamate | 320 mg, yield 84.6% | C(C)OC1=CC=CC2=C1B(OC2CNC(OC(C)(C)C)=O)O | C15H22BNO5
